US06552067B2
Analogous to the procedure described for Example 1A, Step D, 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one (200 mg, 0.455 mmol) was alkylated with NaHMDS (1M in THF, 0.55 mL, 0.55 mmol) and 4-(3-bromo-propyl)-benzoic acid methyl ester (128 mg, 0.501 mmol) to yield 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester (173.1 mg). 1H NMR (CDCl3) δ7.94 (d, 2H), 7.32 (m, 2H), 7.25-7.19 (m, 3H), 7.09 (m, 1H), 6.98 (d, 2H), 6.88-6.81 (m, 3H), 3.88 (s, 3H), 3.84 (m, 1H), 3.64 (m, 1H), 3.50 (m, 1H), 2.95 (m, 1H), 2.76-2.57 (m, 4H), 2.37 (m, 2H), 2.03 (m, 1H), 1.92-1.67 (m, 3H), 1.56 (m, 1H), 1.46-1.25 (m, 3H), 0.84 (s, 9H), −0.04 (d, 3H), −0.15 (d, 3H).

reactant | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-pyrrolidin-2-one | 0.455 mmol, 200 mg | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C26H37NO3Si
reactant | NaHMDS | 0.55 mmol, 1M, 0.55 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-(3-bromo-propyl)-benzoic acid methyl ester | 0.501 mmol, 128 mg | COC(C1=CC=C(C=C1)CCCBr)=O | C11H13BrO2
product | 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-phenoxy-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester | 173.1 mg | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC(=CC=C1)OC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)=O | C37H49NO5Si
